US08980911B2
Step k: Synthesis of N-[1-(2,6-dichlorobenzoyl)-1H-pyrrolo[3,2-c]pyridin-6-yl]-N-(2,4,4-trimethylpentan-2-yl)cyclopropanecarboxamide
The compound was prepared from N-(1H-pyrrolo[3,2-c]pyridin-6-yl)-N-(2,4,4-trimethylpentan-2-yl)cyclopropanecarboxamide and 2,6-dichlorobenzoyl chloride following the procedure same as that of (2,6-dichlorophenyl)(1H-pyrrolo[3,2-c]pyridin-1-yl)methanone

reactant | N-(1H-pyrrolo[3,2-c]pyridin-6-yl)-N-(2,4,4-trimethylpentan-2-yl)cyclopropanecarboxamide | N1C=CC=2C=NC(=CC21)N(C(=O)C2CC2)C(C)(CC(C)(C)C)C | C19H27N3O
reactant | 2,6-dichlorobenzoyl chloride | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
reactant | (2,6-dichlorophenyl)(1H-pyrrolo[3,2-c]pyridin-1-yl)methanone | ClC1=C(C(=CC=C1)Cl)C(=O)N1C=CC=2C=NC=CC21 | C14H8Cl2N2O
product | N-[1-(2,6-dichlorobenzoyl)-1H-pyrrolo[3,2-c]pyridin-6-yl]-N-(2,4,4-trimethylpentan-2-yl)cyclopropanecarboxamide | ClC1=C(C(=O)N2C=CC=3C=NC(=CC32)N(C(=O)C3CC3)C(C)(CC(C)(C)C)C)C(=CC=C1)Cl | C26H29Cl2N3O2
